Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
1. Open reduction internal fixation of right trimalleolar ankle 
fracture.
2. Open reduction internal fixation of syndesmotic disruption.
 
History of Present Illness:
___ G2P1 at 33w0d presents to L&D from the ___ ED s/p fall. 
Patient reports fall took place at 7:30am when she was walking 
from her home to her car, everted/abducted her ankle and fell, 
landing on her ankle. No VB or LoF. +AFM throughout day.

ED Course:
Seen in ED where X-ray revealed "a trimalleolar fracture with 
displaced fracture components and mild residual posterior 
subluxation of the talus with respect to the tibial plafond." 
Orthopedics consult was obtained and plan was determined for 
surgery. U/S in radiology revealed a reassuring EFW and BPP, and 
NST was reactive in the ED.  She was brought to L&D to have 
prolonged monitoring prior to her surgery.
 
Past Medical History:
PRENATAL COURSE
___: ___
Labs: B-/Ab-/RI/RPRNR/HBsAg-/HIV-
U/S:
1. BPP ___, AFI 19, vtx, fund plac
2. ___ EFW 2011g, 53%
Testing: increased risk ERA 1:18 DS, amnio nl

OBSTETRIC HISTORY
___ SVD, fullterm, 6#6, no complications

GYNECOLOGIC HISTORY
h/o abnl pap, s/p LEEP, cryo
denies h/o STIs

PAST MEDICAL HISTORY
none

PAST SURGICAL HISTORY
none
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
(on admission)
VS: 126/77, 103
GENERAL: uncomfortable
CV: RRR
LUNGS: CTAB
ABDOMEN: soft, gravid, NT
EXTREMITIES: RLE splinted and bandaged, toes showing. Patient 
can feel fingers touching toes distally. LLE full ROM, no pain, 
no edema
SVE: LCP
FHT: 120, mod var, +A no decels
TOCO: sporadic insensate ctxns, 4 in last hour
 
Pertinent Results:
___ WBC-10.7 RBC-3.94 Hgb-10.8 Hct-32.3 MCV-82 Plt-209
___ WBC-11.4 RBC-3.37 Hgb-10.0 Hct-28.7 MCV-85 Plt-196
___ ___ PTT-25.5 ___ ___ ___ PTT-25.8 ___ ___ BLOOD FetlHgb-0
___ BLOOD Glucose-92 UreaN-7 Creat-0.5 Na-138 K-3.8 Cl-109* 
HCO3-22 AnGap-11
___ URINE Blood-NEG Nitrite-NEG Protein-NEG Glucose-NEG 
Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
 
Brief Hospital Course:
___ yo G2P1001 admitted at 33w0d with right ankle fracture s/p 
fall.
.
Ms ___ was transferred to labor and delivery from the emergency 
department. On arrival, she had only rare contractions and her 
cervix was closed and long. There was no evidence of preterm 
labor or abrupion. Fetal testing was reassuring. She received a 
course of betamethasone for fetal lung maturity (complete on 
___ and the NICU was consulted. She received a dose of Rhogam 
due to Rh negative status. Kleihauer-___ was negative. She was 
continued on a Dilaudid PCA for pain control. She remained on 
labor and delivery for continuous monitoring until HD#2 (___) 
when she underwent an ORIF of right trimalleolar fracture and 
ORIF of syndesmotic disruption under spinal anesthesia. Please 
see operative report for details.
.
Postoperatively, she returned to labor and delivery for 
prolonged monitoring. She developed some irregular preterm 
contractions which resolved and her cervix remained closed. 
Fetal testing was reassuring. The orthopedic team followed her 
closely. She initially was continued on a PCA and also underwent 
a nerve block for pain control. She was started on sc lovenox 
for VTE prophylaxis. She had no complications for the remainder 
of her hospital course. Physical therapy was consulted and 
cleared her for discharge home. She will have close outpatient 
followup.
 
Medications on Admission:
prenatal vitamins
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for Constipation.
Disp:*60 Capsule(s)* Refills:*3*
2. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for Pain.  
3. Enoxaparin 40 mg/0.4 mL Syringe Sig: One (1) injection 
Subcutaneous Q 24H (Every 24 Hours).
Disp:*28 injection* Refills:*2*
4. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).
Disp:*60 Tablet(s)* Refills:*2*
5. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p fall
Right Weber right ankle fracture dislocation trimalleolar with 
syndesmotic disruption
 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane)
 
Discharge Instructions:
Use your crutches and walker as instructed by ___.  Keep all of 
your appointments.  Take your lovenox daily.  Use the codeine as 
needed for pain.  Do not drive.
 
Followup Instructions:
___